US05167949
2-Ethoxymethyl-6-methyl-4(3H)-pteridinone
A suspension of 7.4 g (0.0338 mole) of 4-amino-2-ethoxymethyl-6-methylpteridine in 148 ml of 5% aqueous sodium hydroxide is brought slowly to 85° C. and maintained at this temperature for 2 hours. A further 592 ml of 5% aqueous sodium hydroxide are then added and heating is contained at 85° C. for 1 hour. After cooling, the solution obtained is acidified with acetic acid to pH 5.5, and is then extracted with dichloromethane. The organic extracts are dried over sodium sulphate and concentrated to dryness under reduced pressure. The solid residue is recrystallized from acetone in the presence of Norit. Yld: 4.9 g (66%), m.p. 181°-183° C.

reactant | 4-amino-2-ethoxymethyl-6-methylpteridine | 0.0338 mole, 7.4 g | NC1=NC(=NC2=NC=C(N=C12)C)COCC | C10H13N5O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 148 ml | [OH-].[Na+]
solvent | sodium hydroxide | 592 ml | [OH-].[Na+]
product | 2-Ethoxymethyl-6-methyl-4(3H)-pteridinone | C(C)OCC1=NC2=NC=C(N=C2C(N1)=O)C | C10H12N4O2
